US07576074B2
N-(3,4-Dichlorophenyl)-6-(methyloxy)-7-[(4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-ylmethyl)oxy]quinazolin-4-amine (0.249 g, 0.510 mmol) was taken up in 50% THF/MeOH (10 mL) and the solution was cooled with an ice bath. Acetaldehyde (0.057 mL, 1.0 mmol), followed by NaCNBH3 (0.038 g, 0.61 mmol) were added. The solution was allowed to warm to room temperature. After 4 h, additional acetaldehyde (0.050 mL, 0.89 mmol) and NaCNBH3 (0.040 g, 0.64 mmol) were added and the solution was stirred for 12 h. An additional 0.050 mL (0.89 mmol) of acetaldehyde and NaCNBH3 (0.020 g, 0.32 mmol) were added. The solution was poured into 10% MeOH/ethyl acetate (100 mL) and washed once with H2O (100 mL). The organic layer was dried (Na2SO4); filtered and the solvent was removed in vacuo. The crude product was purified via preparative HPLC (reverse phase, CH3CN/H2O/NH4OAc/AcOH). The solvents were removed, the product was taken up in MeOH and treated with 4.0M HCl/dioxane (0.025 mL), and lyophilized to provide 0.036 g (12%) of N-(3,4-dichlorophenyl)-7-{[(5-ethyl-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-yl)methyl]oxy}-6-(methyloxy)quinazolin-4-amine hydrochloride as a yellow solid.

reactant | N-(3,4-Dichlorophenyl)-6-(methyloxy)-7-[(4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-ylmethyl)oxy]quinazolin-4-amine | 0.510 mmol, 0.249 g | ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1SC=2CNCCC2N1 | C22H19Cl2N5O2S
reactant | Acetaldehyde | 1.0 mmol, 0.057 mL | C(C)=O | C2H4O
reactant | NaCNBH3 | 0.61 mmol, 0.038 g | [BH3-]C#N.[Na+]
reactant | acetaldehyde | 0.89 mmol, 0.050 mL | C(C)=O | C2H4O
reactant | NaCNBH3 | 0.64 mmol, 0.040 g | [BH3-]C#N.[Na+]
reactant | acetaldehyde | 0.89 mmol, 0.050 mL | C(C)=O | C2H4O
reactant | NaCNBH3 | 0.32 mmol, 0.020 g | [BH3-]C#N.[Na+]
reactant | MeOH ethyl acetate | 100 mL | CO.C(C)(=O)OCC
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | N-(3,4-dichlorophenyl)-7-{[(5-ethyl-4,5,6,7-tetrahydro[1,3]thiazolo[5,4-c]pyridin-2-yl)methyl]oxy}-6-(methyloxy)quinazolin-4-amine hydrochloride | 0.036 g, 12% | Cl.ClC=1C=C(C=CC1Cl)NC1=NC=NC2=CC(=C(C=C12)OC)OCC=1SC=2CN(CCC2N1)CC | InChI=1S/C24H23Cl2N5O2S.ClH/c1-3-31-7-6-18-22(11-31)34-23(30-18)12-33-21-10-19-15(9-20(21)32-2)24(28-13-27-19)29-14-4-5-16(25)17(26)8-14;/h4-5,8-10,13H,3,6-7,11-12H2,1-2H3,(H,27,28,29);1H
